US07407955B2
1-methyl-3-phenyl-7-(2-cyano-benzyl)-8-chloro-xanthine
A mixture of 829 mg of 1-methyl-7-(2-cyano-benzyl)-8-chloro-xanthine, 640 mg of phenylboric acid, 509 mg of anhydrous copper acetate and 0.43 ml of pyridine in 20 ml methylene chloride is stirred for four days at ambient temperature in the presence of 100 mg of 4 Å molecular sieves. Then another 320 mg of phenylboric acid are added and the reaction mixture is stirred for another day at ambient temperature. For working up the mixture is filtered through talc and washed with ethyl acetate. The filtrate is evaporated down and chromatographed through a silica gel column with cyclohexane/ethyl acetate (7:3 to 1:1) as eluant.

reactant | 1-methyl-7-(2-cyano-benzyl)-8-chloro-xanthine | 829 mg | CN1C(=O)NC=2N=C(N(C2C1=O)CC1=C(C=CC=C1)C#N)Cl | C14H10ClN5O2
reactant | phenylboric acid | 640 mg | C1(=CC=CC=C1)OB(O)O | C6H7BO3
reactant | pyridine | 0.43 ml | N1=CC=CC=C1 | C5H5N
reactant | phenylboric acid | 320 mg | C1(=CC=CC=C1)OB(O)O | C6H7BO3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | copper acetate | 509 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 1-methyl-3-phenyl-7-(2-cyano-benzyl)-8-chloro-xanthine | CN1C(=O)N(C=2N=C(N(C2C1=O)CC1=C(C=CC=C1)C#N)Cl)C1=CC=CC=C1 | C20H14ClN5O2
